US08808703B2
Step 1: diethyl 1,1-difluoro-4-iodobutylphosphonate
To a solution of diisopropylamine (1.6 eq) in THF (1.28 M) was slowly added n-butyllithium (1.5 M in cyclohexane, 1.5 eq) dropwise at 0° C. The reaction mixture was stirred at 0° C. for 40 minutes. The mixture was then cooled down to −78° C., and diethyl difluoromethylphosphonate (1 eq) in HMPA (2.1 M) was slowly added to the reaction. Then the mixture was stirred at −78° C. for 40 minutes and to the resulting solution was added a cooled solution of 1,3-diiodopropane (12.8 M in THF, 4 eq) rapidly. After 1.5 hours, the reaction was quenched by pouring into saturated NH4Cl solution. The aqueous phase was extracted with ethyl acetate three times. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate and concentrated en vaccuo. The resulting crude was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 10-100% EtOAc/Hex to give the product as a yellow oil.

reactant | diisopropylamine | 1.6 eq | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.5 M, 1.5 eq | C(CCC)[Li]
reactant | diethyl difluoromethylphosphonate | 1 eq | FC(F)P(OCC)(OCC)=O | C5H11F2O3P
reactant | 1,3-diiodopropane | 12.8 M, 4 eq | ICCCI | C3H6I2
solvent | THF | 1.28 M | C1CCOC1 | C4H8O
solvent | HMPA | 2.1 M | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | diethyl 1,1-difluoro-4-iodobutylphosphonate | FC(CCCI)(F)P(OCC)(OCC)=O | C8H16F2IO3P
